US04267176
A mixture of ethyl 2-(4-formamidopyrimidin-2-yl)-2-methoxyiminoacetate (4.3 g.) and 10 N aqueous solution of sodium hydroxide (6.1 ml.) in ethanol (100 ml.) was stirred for 3 hours at ambient temperature. To the reaction mixture was gradually added concentrated hydrochloric acid with stirring, whereby said mixture was adjusted to pH 3. The precipitates were collected by filtration and washed successively with ethanol and diethyl ether and then dried to give white crystals of 2-(4-aminopyrimidin-2-yl)-2-methoxyiminoacetic acid.

reactant | ethyl 2-(4-formamidopyrimidin-2-yl)-2-methoxyiminoacetate | 4.3 g | C(=O)NC1=NC(=NC=C1)C(C(=O)OCC)=NOC | C10H12N4O4
reactant | sodium hydroxide | 6.1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4-aminopyrimidin-2-yl)-2-methoxyiminoacetic acid | NC1=NC(=NC=C1)C(C(=O)O)=NOC | C7H8N4O3
